US07279600B2
3-Chloro-3′-fluoro-4′-hydroxy-1,1′-biphenyl-4-carbaldehyde
The title compound was prepared by reacting 3-chloro-3′-fluoro-4′-methoxy-1,1′-biphenyl-4-carbaldehyde (990 mg, 3.75 mmol) with boron tribromide (11.25 mL of 1 N solution in methylene chloride, 11.25 mmol) according to Method F to yield 940 mg (100%) of yellowish solid. The compound was used in the next step without purification. The analytical sample was obtained by HPLC purification: mp 206-208° C.; 1H NMR (DMSO-d6): δ 7.06 (1H, t, J=8.79 Hz), 7.51-7.53 (1H, m), 7.71 (1H, dd, J=2.47 Hz, J=12.63 Hz), 7.81-7.83 (1H, m), 7.89 (1H, d, J=7.96 Hz), 7.91 (1H, d, J=1.66 Hz), 10.329(1H, s), 10.330 (1H, s); IR 1667 cm−1; MS (ESI) m/z 249/251 (M−H)−.

reactant | 3-chloro-3′-fluoro-4′-methoxy-1,1′-biphenyl-4-carbaldehyde | 3.75 mmol, 990 mg | ClC=1C=C(C=CC1C=O)C1=CC(=C(C=C1)OC)F | C14H10ClFO2
reactant | boron tribromide | 11.25 mmol, 1 N, 11.25 mL | B(Br)(Br)Br | BBr3
product | 3-Chloro-3′-fluoro-4′-hydroxy-1,1′-biphenyl-4-carbaldehyde | ClC=1C=C(C=CC1C=O)C1=CC(=C(C=C1)O)F | C13H8ClFO2
